US05021446
Under a nitrogen gas atmosphere, 3.48 g (0.0347 mole) of cyclohexanol was added at 0° C. to 50 ml of an N,N-dimethylformamide solution containing 1.45 g (0.03625 mole) of suspended sodium hydride. The resulting mixture was stirred at 0° C. for 1 hour. Thereafter, a solution of 5 g (0.0315 mole) of 5-chloro-1,3-dimethyl-4-formylpyrazole in 20 ml of N,N-dimethylformamide was added dropwise at 20° C. over 1 hour. The reaction mixture was stirred at 20° C. for 5 hours. The reaction mixture was then poured into 300 ml of ice water and extracted with two 100-ml portions of ethyl acetate. The organic layers were combined, washed once with 100 ml of a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate, then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel to obtain 0.3 g of 1,3-dimethyl-5-cyclohexyloxy-4-formylpyrazole.

reactant | cyclohexanol | 0.0347 mole, 3.48 g | C1(CCCCC1)O | C6H12O
reactant | sodium hydride | 0.03625 mole, 1.45 g | [H-].[Na+]
reactant | 5-chloro-1,3-dimethyl-4-formylpyrazole | 0.0315 mole, 5 g | ClC1=C(C(=NN1C)C)C=O | C6H7ClN2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1,3-dimethyl-5-cyclohexyloxy-4-formylpyrazole | 0.3 g | CN1N=C(C(=C1OC1CCCCC1)C=O)C | C12H18N2O2
